US06417186B1
8a. 1-(4-Fluorophenyl)-4-(4-nitrophenyl)-butan-1-one
A solution of 4-(4-nitrophenyl)butyryl chloride (5.4 g, 23.7 mmol) and 4-fluorobenzene (2.6 mL, 26.2 mmol) dissolved in carbon disulfide (25 mL) was treated in portions with aluminum chloride (4.1 g, 30.75 mmol) under a nitrogen atmosphere. After the addition was complete, the reaction mixture was heated to 60-70° C. for about 12 hours. The resulting mixture was cooled in an ice bath, treated with concentrated hydrochloride acid (12 mL), and stirred for 30 minutes. The mixture was diluted with water and extracted with ethyl acetate. The organic layer was separated, washed with 1 N aqueous sodium hydroxide, water, and brine, dried and evaporated in vacuo. Purification by silica gel chromatography, eluting with 5% ethyl acetate/hexane gave the title compound as a white solid (3.81 g, 56%). The product was used in the next step.

reactant | 4-(4-nitrophenyl)butyryl chloride | 23.7 mmol, 5.4 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCC(=O)Cl | C10H10ClNO3
reactant | 4-fluorobenzene | 26.2 mmol, 2.6 mL | FC1=CC=CC=C1 | C6H5F
reactant | aluminum chloride | 30.75 mmol, 4.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloride | 12 mL | Cl | ClH
solvent | carbon disulfide | 25 mL | C(=S)=S | CS2
solvent | water | O | H2O
product | 1-(4-Fluorophenyl)-4-(4-nitrophenyl)-butan-1-one | 3.81 g, 56% | FC1=CC=C(C=C1)C(CCCC1=CC=C(C=C1)[N+](=O)[O-])=O | C16H14FNO3
